US09403798B2
4-(4-Fluorophenyl)-1,2,3,6-tetrahydropyridin-3-ol
To a dichloromethane solution (14 mL) of tert-butyl 4-(4-fluorophenyl)-3,4-dihydroxypiperidine-1-carboxylate (1.45 g, 4.66 mmol) synthesized in Reference Synthesis Example 39, trifluoroacetic acid (14 mL) was added and the resultant solution was stirred at room temperature for 4 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure by 4 mL and saturated sodium bicarbonate aqueous solution was added to the concentrated solution, followed by extraction from the resultant mixture with ethyl acetate three times. The obtained organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel (amino-based) column chromatography to obtain the title compound of Reference Synthesis Example 40a (189 mg, yield 48%).

reactant | tert-butyl 4-(4-fluorophenyl)-3,4-dihydroxypiperidine-1-carboxylate | 4.66 mmol, 1.45 g | FC1=CC=C(C=C1)C1(C(CN(CC1)C(=O)OC(C)(C)C)O)O | C16H22FNO4
reactant | trifluoroacetic acid | 14 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 14 mL | ClCCl | CH2Cl2
product | 4-(4-Fluorophenyl)-1,2,3,6-tetrahydropyridin-3-ol | FC1=CC=C(C=C1)C=1C(CNCC1)O | C11H12FNO
